US09370515B2
Preparation of trans-4-(3-(benzo[b]thiophen-2-yl)-7,8-dimethylimidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol
To a solution of 3-(benzo[b]thiophen-2-yl)-6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine (40 mg, 0.128 mmol, 1.0 equiv) in DMSO (1.00 mL) was added p-TSA (24 mg, 0.128 mmol, 1.0 equiv) and trans-4-aminocyclohexanol (73 mg, 0.638 mmol, 5.0 equiv) and heated to 100° C. for 24 h. Purification by column chromatography using 5% methanol in dichloromethane elution gave 31 mg, 62%.

reactant | 3-(benzo[b]thiophen-2-yl)-6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine | 0.128 mmol, 40 mg, 1.0 equiv | S1C2=C(C=C1C1=CN=C3N1N=C(C(=C3C)C)Cl)C=CC=C2 | C16H12ClN3S
reactant | p-TSA | 0.128 mmol, 24 mg, 1.0 equiv | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | trans-4-aminocyclohexanol | 0.638 mmol, 73 mg, 5.0 equiv | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | DMSO | 1.00 mL | CS(=O)C | C2H6OS
product | trans-4-(3-(benzo[b]thiophen-2-yl)-7,8-dimethylimidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | S1C2=C(C=C1C1=CN=C3N1N=C(C(=C3C)C)N[C@@H]3CC[C@H](CC3)O)C=CC=C2 | C22H24N4OS
